US06248870B1
4′-(4-methoxyphenyl)-2,2′:6′2″-terpyridine-6-carbonyl chloride (12a)
To 1 g of 4′-(4-methoxyphenyl)-2,2′:6′2″-terpyridine-6-carboxylic acid is added a solution of 1 mL of thionyl chloride in 25 mL of methylene chloride. The reaction mixture is heated gently for 1 hour, and the solvent and excess thionyl chloride are removed under reduced pressure. The crude product is triturated with anhydrous heptane and isolated by filtration under nitrogen.

reactant | 4′-(4-methoxyphenyl)-2,2′:6′2″-terpyridine-6-carboxylic acid | 1 g | COC1=CC=C(C=C1)C1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC(=CC=C1)C(=O)O | C23H17N3O3
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 4′-(4-methoxyphenyl)-2,2′:6′2″-terpyridine-6-carbonyl chloride | COC1=CC=C(C=C1)C1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC(=CC=C1)C(=O)Cl | C23H16ClN3O2
